US07579488B2
Preparation of 5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-benzofuran-2-carboxylic acid
5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid (170 mg g, 0.378 mmol) is reduced with NaBH4 (29 mg, 0.756 mmol) analogous to Example 3 to give the title product (120 mg, 71%).

reactant | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid | 0.378 mmol, 170 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C(=C(O2)C(=O)O)C)C1)C)=O)(C)C | C28H34O5
reactant | NaBH4 | 0.756 mmol, 29 mg | [BH4-].[Na+]
product | 5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-benzofuran-2-carboxylic acid | 120 mg, 71% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1C=CC2=C(C(=C(O2)C(=O)O)C)C1 | C28H36O5
